US05578620
5-[4-(2-Oxobutoxy)benzyl]thiazolidine-2,4-dione
50 ml of trifluoroacetic acid were added to a solution of 19.3 g of 5-[4-(2-oxobutoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 94) in 100 ml of methylene chloride, and the mixture was stirred at room temperature for 1.5 hours. At the end of this time, it was concentrated by evaporation under reduced pressure. Water was added to the residue, and the mixture was neutralized with sodium hydrogencarbonate and then extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was removed by evaporation under reduced pressure, and the resulting residue was applied to a silica gel chromatography column, and eluted, using a 1:2 by volume mixture of ethyl acetate and hexane as the eluent. It was then recrystallized from a mixture of ethyl acetate and diisopropyl ether, to give 9.55 g of the title compound, melting at 141.5° to 145.7° C.

reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-[4-(2-oxobutoxy)benzyl]-3-triphenylmethylthiazolidine-2,4-dione | 19.3 g | O=C(COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)CC | C33H29NO4S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-(2-Oxobutoxy)benzyl]thiazolidine-2,4-dione | 9.55 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)CC | C14H15NO4S
